US05847155
1-(2-Benzoylbenzoyl)-L-proline 1,1-dimethylethyl ester
6.78 g (30mmol) of o-benzoylbenzoic acid, 5.13 g (30 mmol) of L-proline t-butyl ester, 4.05 g (30 mmol) of 1-hydroxybenzotriazole hydrate and 6.18 g (30 mmol) of DCC in 100 ml methylene chloride were reacted in the manner described in Example 25 for the coupling of o-benzoylbenzoic acid with L-proline t-butyl ester. A standard work-up as described in Example 25 afforded a viscous gum which was purified by flash chromatography on silica gel with 40:1/methylene chloride:methanol as eluant to give an amorphous solid. The isolated yield of the title compound was 8.6 g (76%). TLC (90:10/CH2Cl2 :MeOH): Rf =0.80. 1H NMR (CDCl3) δ: 7.30-7.80(m,9H,); 4.06-4.38(m,1H); 3.36-3.65(m,2H); 1.78-2.32(m,4H); 1.32(s),1.43(s,9H). I.R. (KBr): 1595, 1627, 1661, 1733 cm-1. Low Resolution Mass Spectrum: 380 (p+1). Standard Combustion Analysis Calculated: C,72.80; H,6.64; N,3.69. Found: C,72.37; H,6.59; N,3.76.

reactant | o-benzoylbenzoic acid | 30mmol, 6.78 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | L-proline t-butyl ester | 30 mmol, 5.13 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | 1-hydroxybenzotriazole hydrate | 30 mmol, 4.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | DCC | 30 mmol, 6.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Benzoylbenzoyl)-L-proline 1,1-dimethylethyl ester | CC(C)(C)OC([C@H]1N(CCC1)C(C1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O)=O | C23H25NO4
